US05849747
(2) Preparation of ethyl 5-{(2RS,3SR)-3-hydroxy-2-(4-nitrophenyl)butyl}-2-furancarboxylate
5.48 g of ethyl 5-{2-(4-nitrophenyl)-3-oxobutyl}-2-furancarboxylate was dissolved in 50 ml of tetrahydrofuran, and 16.5 ml of a 1M tetrahydrofuran solution of lithium tri-sec-butylborohydride was added under cooling to -78° C. with stirring, followed by stirring at the same temperature for 2 hours. Water was added to the reaction solution, followed by stirring at room temperature for 30 minutes. Then, the solution was acidified by an addition of acetic acid. Ethyl acetate was added thereto for extraction. The organic layer was washed with a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. The drying agent was filtered off, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=5/1→1/1) to obtain 3.66 g of the above-identified compound.

reactant | ethyl 5-{2-(4-nitrophenyl)-3-oxobutyl}-2-furancarboxylate | 5.48 g | [N+](=O)([O-])C1=CC=C(C=C1)C(CC1=CC=C(O1)C(=O)OCC)C(C)=O | C17H17NO6
reactant | lithium tri-sec-butylborohydride | C(C)(CC)[BH-](C(C)CC)C(C)CC.[Li+]
reactant | Water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1M | O1CCCC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 5-{(2RS,3SR)-3-hydroxy-2-(4-nitrophenyl)butyl}-2-furancarboxylate | 3.66 g | OC(C(CC1=CC=C(O1)C(=O)OCC)C1=CC=C(C=C1)[N+](=O)[O-])C | C17H19NO6
